US03949085
12 g of 7-hydroxy-isoflavone are boiled for 2 hours under a reflux condenser with 10 g of potassium carbonate and 9 g of isopropyl bromide in 40 ml of dimethyl formamide. On pouring the reaction mixture into water, the separated product is recrystallized from acetone, yielding 7-isopropoxy-isoflavone. In a similar way all the other isoflavone derivatives described in Example 7 can be prepared.

reactant | 7-hydroxy-isoflavone | 12 g | OC1=CC=C2C(C(=COC2=C1)C1=CC=CC=C1)=O | C15H10O3
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl bromide | 9 g | C(C)(C)Br | C3H7Br
reactant | water | O | H2O
solvent | dimethyl formamide | 40 ml | CN(C=O)C | C3H7NO
product | 7-isopropoxy-isoflavone | C(C)(C)OC1=CC=C2C(C(=COC2=C1)C1=CC=CC=C1)=O | C18H16O3
